US06627629B2
Part B: Preparation of (4R)-4-Benzyl-3-{(2R,3R)-2-[3-(tert-butyl-diphenyl-silanyloxy)-propyl]-3-hydroxy-5-phenyl-pent-4-enoyl}-oxazolidin-2-one
To a stirring solution of (R)-4-benzyl-3-[5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-oxazolidin-2-one (1.64 g, 3.19 mmol) in dry methylene chloride (15.9 mL) in a flame dried round bottom flask under N2 at 0° C. was added titanium(IV) chloride (386 μL, 3.51 mmol). After 5 min, (−)-sparteine (1.83 mL, 7.97 mmol) was added. After 20 min, trans-cinnamaldehyde (442 μL, 3.51 mmol) was added dropwise to the purple suspension, and the resulting pale green-yellow solution was stirred for 1 h . The reaction was quenched by the addition of 50% saturated ammonium chloride (50 mL), diluted with water (100 mL), and then extracted with methylene chloride (3×30 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, and concentrated in vacuo to a colorless oil. The oil was purified by flash chromatography (SiO2, 15-30% ethyl acetate in hexanes) to yield 1.72 g (83.1%) of the desired product as a white solid. MS (APCI), m+/z: (M+H)+=648.

reactant | (R)-4-benzyl-3-[5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-oxazolidin-2-one | 3.19 mmol, 1.64 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C31H37NO4Si
reactant | (−)-sparteine | 7.97 mmol, 1.83 mL | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | trans-cinnamaldehyde | 3.51 mmol, 442 μL | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | methylene chloride | 15.9 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | 3.51 mmol, 386 μL | [Ti](Cl)(Cl)(Cl)Cl
product | (4R)-4-Benzyl-3-{(2R,3R)-2-[3-(tert-butyl-diphenyl-silanyloxy)-propyl]-3-hydroxy-5-phenyl-pent-4-enoyl}-oxazolidin-2-one | 1.72 g, 83.1% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@@H](C=CC1=CC=CC=C1)O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C40H45NO5Si
